US07253158B2
c) 3-Chloro-5-isopropyl-azepan-2-one
3,3-Dichloro-5-isopropyl-azepan-2-one (5.00 g, 22.3 mmol) was dissolved in acetic acid (125 ml) and sodium acetate (anhydrous, 2.38 g, 29.0 mmol), 10% Pd-c catalyst (0.22 g) were added. The degassed mixture was hydrogenated at r.t. and atmospheric pressure for 90 min. The reaction mixture was filtered and concentrated under reduced pressure. The residue was purified over silica gel (ethyl acetate/n-heptane 1:1): 3.49 g (74%) 1H NMR (CDCl3) δ 0.88-0.90 (m, 6H), 1.26-1.29 (m, 1H), 1.63-1.67 (m, 2H), 1.76-1.94 (m, 2H), 2.16-2.21 (m, 1H), 3.19-3.23 (m, 1H), 3.30-3.36 (m, 1H), 4.64 & 4.67 (dd, 1H), 6.45 (br, 1H) MS: m/e=190.3 (MH+), 207.2 (MNH4+)

reactant | 3,3-Dichloro-5-isopropyl-azepan-2-one | 22.3 mmol, 5.00 g | ClC1(C(NCCC(C1)C(C)C)=O)Cl | C9H15Cl2NO
reactant | sodium acetate | 29.0 mmol, 2.38 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-5-isopropyl-azepan-2-one | ClC1C(NCCC(C1)C(C)C)=O | C9H16ClNO
